US04010184
To a solution of 5.5 g of 7-ethyl-5-p-fluorophenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 50 ml of tetrahydrofuran is added 2.2 g of triethylamine, and then to this solution is added dropwise a solution of 2.4 g of dimethylcarbamoyl chloride in 10 ml of tetrahydrofuran with stirring. The whole mixture is stirred under reflux for 6 hours. After cooling, the reaction solution is transferred to water, and extracted with ethyl acetate. After the organic layer is washed with water and dried over anhydrous magnesium sulfate, the solvent is evaporated under reduced pressure. The residue is treated with ethanolic hydrogen chloride to give 7-ethyl-5-p-fluorophenyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride as pale yellow crystals. This product, when recrystallized from ethanol, melts at 216°-218° C with decomposition.

reactant | 7-ethyl-5-p-fluorophenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 5.5 g | C(C)C1=CC2=C(NCCN=C2C2=CC=C(C=C2)F)S1 | C15H15FN2S
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 2.4 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-ethyl-5-p-fluorophenyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | Cl.C(C)C1=CC2=C(N(CCN=C2C2=CC=C(C=C2)F)C(N(C)C)=O)S1 | InChI=1S/C18H20FN3OS.ClH/c1-4-14-11-15-16(12-5-7-13(19)8-6-12)20-9-10-22(17(15)24-14)18(23)21(2)3;/h5-8,11H,4,9-10H2,1-3H3;1H
